US04197296
2β-Ethoxy-17,17-ethylenedioxy-3α-hydroxy-5α-androstan-11-one 11-oxime.
2β-Ethoxy-17,17-ethylenedioxy-3α-hydroxy-5α-androstan-11-one (8.2 g) was added to hydroxylamine hydrochloride (15 g) in ethanol (500 ml) containing 44% sodium hydroxide solution (90 ml). After refluxing for 24 hours about half the solvent was evaporated in vacuo and the residue was diluted with water and extracted with ethyl acetate. The washed and dried (Na2SO4) organic solution was evaporated in vacuo to afford a froth which on crystallization from ethyl acetate-petroleum ether afforded the title compound m.p. 136°-140°, [α]D +41.1°.

reactant | 2β-Ethoxy-17,17-ethylenedioxy-3α-hydroxy-5α-androstan-11-one | 8.2 g | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CCC5([C@@]4(C)CC([C@@H]3[C@]2(C1)C)=O)OCCO5)O | C23H36O5
reactant | hydroxylamine hydrochloride | 15 g | Cl.NO
reactant | sodium hydroxide | 90 ml | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2β-Ethoxy-17,17-ethylenedioxy-3α-hydroxy-5α-androstan-11-one 11-oxime | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CCC5([C@@]4(C)CC([C@@H]3[C@]2(C1)C)=NO)OCCO5)O | C23H37NO5
